US07939661B2
Step 1: 4-(6-Amino-5-methyl-pyridin-3-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
To a degassed solution of N-(5-bromo-3-methyl-pyridin-2-yl)-acetamide (4.92 g, 21.48 mmol, 1.0 equiv; commercially available) and 4-amino-piperidine-1-carboxylic acid tert-butyl ester (5.16 g, 25.77 mmol, 1.2 equiv; commercially available) in toluene (40 mL) was added KOtert-Bu (6.03 g, 53.69 mmol, 2.5 equiv), dicyclohexyl-(2′,4′,6′-triisopropyl-biphenyl-2-yl)-phosphane (0.21 g, 0.43 mmol, 0.02 equiv; X-Phos ligand [CAS RN 564483-18-7]; commercially available from Strem Chemicals, USA) and tris(dibenzylideneacetone)dipalladium(0) (1.78 g, 1.72 mmol, 0.08 equiv). The reaction mixture was stirred under nitrogen at 100° C. for 16 h, cooled to rt, filtered and the filtrate concentrated by evaporation under reduced pressure. The crude material was purified with silica column chromatography eluting with a gradient of ethyl acetate/triethylamine (10:0→4:1) and then recrystallized from ethyl acetate/heptane to provide 2.96 g (45%) of the title compound in 70% purity according to 1H NMR. 1H NMR (250 MHz, DMSO): δ 1.03-1.28 (m, 2H), 1.39 (s, 9H), 1.82 (dd, J=12.3 Hz, J=3.9 Hz, 2H), 1.98 (s, 3H), 2.72-2.98 (m, 2H), 3.11-3.29 (m, 1H), 3.84 (d, J=13.4 Hz, 2H), 4.52 (d, J=8.7 Hz, 1H), 5.60 (br s, 2H), 6.73 (d, J=2.3 Hz, 1H), 7.29 (d, J=2.7 Hz, 1H). MS (ESI): 307.2 [M+H]+.

reactant | N-(5-bromo-3-methyl-pyridin-2-yl)-acetamide | BrC=1C=C(C(=NC1)NC(C)=O)C | C8H9BrN2O
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | KOtert-Bu | 53.69 mmol, 6.03 g, 2.5 equiv | O([K])C(C)(C)C
reactant | dicyclohexyl-(2′,4′,6′-triisopropyl-biphenyl-2-yl)-phosphane | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | X-Phos | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 1.72 mmol, 1.78 g, 0.08 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(6-Amino-5-methyl-pyridin-3-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 2.96 g, 45% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC=1C=NC(=C(C1)C)N | C16H26N4O2
